datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]2)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[CH:64]=[CH:63]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[CH:64]=[CH:63]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2:20][H:10])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"C1C[N:62]2CC[NH:12][C:11]2=[N:10]1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C:20]([N:10]1CC[N:62]2CC[NH+:12]=[C:11]12)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65 10,11=10,20;12=11,12"
"C1CC[NH:10]CC1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([NH+:10]2CCCCC2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)[C@@H]1C[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10][C@@H]1C1=CC=CC=C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>CC(C)[C@@H]1C[N+:12]2=[C:11]([N:10]([CH:20]([C:31]3=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[C@@H]1C1=CC=CC=C1)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12"
"C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1.C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1.C[Si](C)(C)C12[C:31]3([CH2:20][H:10])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"Cl[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72].O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([CH:10](Cl)[S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.C[C:21]1=[C:22]([O-:23])CC[CH:20]1[H:10] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1[C:63]2=[C:62]([CH:11]([H:10])[C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>C1[C:63]2=[C:62]([CH+:11][C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=CC=C1.CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23]>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=CC=C2)[N:20]([N:21]=[C:22]([O-:23])[O:33]C(C)(C)C)[C:41](=[O:42])[O:43]C(C)(C)C)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N:12]2[C:11](=[CH2:10])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N+:12]2=[C:11]([CH2:10][CH:20]([C:31]3=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1 10,11=10,20;12=11,12"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[CH:10](=[C:11]=[N-:12])[C:61]#[N:62]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11]#[N:12])[C:61]#[N:62])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
